US07902401B2
tert-Butyl {(1R)-1-[(difluoromethoxy)methyl]-2-[(4-fluorobenzyl)amino]-2-oxoethyl}carbamate (400 mg, 1.1 mmol) was stirred with trifluoroacetic acid (1.5 mL) and dichloromethane (2.5 mL) in an ice bath for an hour. The reaction mixture was concentrated, mixed with acetic anhydride-pyridine (1:1.6 mL) at room temperature for 30 minutes and then diluted with ethyl acetate, washed with saturated sodium bicarbonate, brine, 0.5N HCl and brine again. The organic layer was dried, concentrated, and triturated with diethyl ether to give (2R)-2-(acetylamino)-3-(difluoromethoxy)-N-(4-fluorobenzyl)propanamide (220 mg, 65.7%) as a white solid. Mp: 162.7° C. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.24 (dd, 2H), 7.03 (t, 2H), 6.78 (w, 1H), 6.35 (d, 1H), 6.24 (wt, 1H), 4.71 (m, 1H), 4.44 (d, 2H), 4.24 (dd, 1H), 4.01 (dd, 1H) and 2.05 (s, 3H).

reactant | tert-Butyl {(1R)-1-[(difluoromethoxy)methyl]-2-[(4-fluorobenzyl)amino]-2-oxoethyl}carbamate | 1.1 mmol, 400 mg | FC(OC[C@H](C(=O)NCC1=CC=C(C=C1)F)NC(OC(C)(C)C)=O)F | C16H21F3N2O4
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | (2R)-2-(acetylamino)-3-(difluoromethoxy)-N-(4-fluorobenzyl)propanamide | 220 mg, 65.7% | C(C)(=O)N[C@@H](C(=O)NCC1=CC=C(C=C1)F)COC(F)F | C13H15F3N2O3
